US04513139
A mixture of 2.4 g of benzyl DL-prolinate hydrochloride, 25 ml of benzene, 5 ml of demineralized water and 1.01 g of triethylamine was stirred at 20° C. for one hour and the decanted organic phase was wahsed with water, dried and evaporated to dryness under reduced pressure to obtain 2.1 g of benzyl DL prolinate.

reactant | benzyl DL-prolinate hydrochloride | 2.4 g | Cl.N1C(C(=O)OCC2=CC=CC=C2)CCC1
reactant | benzene | 25 ml | C1=CC=CC=C1 | C6H6
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
product | benzyl DL prolinate | 2.1 g | N1C(C(=O)OCC2=CC=CC=C2)CCC1 | C12H15NO2
